US05952511
1-(2,2-Diethoxyethyl)indole
To a solution of 12 g of indole in 100 ml of dimethyl sulfoxide was added 6.5 g of sodium hydride at room temperature. The mixture was stirred at the same temperature for 1 hour, and 20 ml of bromoacetaldehyde diethyl acetal was added thereto, followed by further stirring at 50° C. for 1 hour. After cooling, the reaction mixture was poured into water, and the product was extracted with ethyl ether. The organic layer was dried over anhydrous magnesium sulfate and concentrated to give 23 g of the title compound.

reactant | indole | 12 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | sodium hydride | 6.5 g | [H-].[Na+]
reactant | bromoacetaldehyde diethyl acetal | 20 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 1-(2,2-Diethoxyethyl)indole | 23 g | C(C)OC(CN1C=CC2=CC=CC=C12)OCC | C14H19NO2
